* DAC8411 (PSpice format)
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer                                    
*****************************************************************************	
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: DAC8411  
* 2.0V to 5.5V, 80uA,16-Bit, Low-Power, Single-Channel, Digital-to-Analog Converter in SC70 Package
* Date: 2020-03-30
* Model Type: PSpice
* Simulator:  PSpice
* Simulator Version: PSpice 16.3.0 
* Datasheet: SBAS439B,SBAS442B–AUGUST 2008–REVISED MAY 2013
*
*****************************************************************************
* version 1.4:
*
*****************************************************************************	
*$
.SUBCKT DAC8411 D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 D13 D14 D15 AVDD GND OUT
+ PARAMS: Offs=0.05m Offs_ED=3u Gerr=0.05 Gerr_Tc=0.5
* Offs:    Offset error ±0.05 ±4 mV
* Offs_ED: Offset error drift 3 µV/°C
* Gerr:    Gain error 0.05 ±0.15 % of FSR
* Gerr_Tc: Gain temperature coefficient AVDD=+5V: ±0.5,  AVDD=+2.0V: ±1.5 ppm of  FSR/°C
*+ PORI PORO 
XOpamp      Inp Neg OUT AVDD GND PORI POROi Opamp_0	   
+ PARAMS: Offs={Offs+68.0U} Offs_ED={Offs_ED}
R2          PORI GND 1MEG 
R1          GND PORO 1 
GPOCS1      GND PORO POROi GND  3
XU3         OUT GND Neg GAINSET_0
+ PARAMS: GERR={Gerr-0.0008} GERR_TC={Gerr_Tc} 
XD11        OUT AVDD D_D2_0
XD1         GND OUT D_D2_0
XD2A D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 D13 D14 D15 Inp AVDD GND
+ Res_String_8411 
.ENDS
*$
*********************************************************************************************
.SUBCKT Res_String_8411  D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 D13 D14 D15 
+ RSOUT AVDD GND
XRSTR       AOUT GND AVDD GND RSOUT RSTRING
XCONT D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 D13 D14 D15 AOUT AVDD GND 
+ CONTROL_8411 
.ENDS
*$
*********************************************************************************************
.SUBCKT CONTROL_8411   D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 D13 D14 D15 AOUT AVDD GND
.PARAM VH=0.3
.PARAM VTH=0.0
.PARAM VLTH=0.5
.PARAM GSWC=4
.PARAM N=16
.PARAM Res={2**N}
.PARAM Nr=16
.PARAM Resr={2**Nr}
.PARAM B1={1/Resr}
.PARAM B2={1/Res}
.PARAM INLa1={-B1}
.PARAM INLa2={-B1} ;DAC8411, DAC7311, DAC6311
*.PARAM INLa2={B1} ;DAC8311, DAC5311 
.PARAM INLa3={-2*B1} ;DAC8411, DAC7311
*.PARAM INLa3={0.25*B1} ;DAC8311, DAC6311, DAC5311 
.PARAM DLE=0.5 ;DAC8411
*.PARAM DLE=0.125 ;DAC8311
**.PARAM DLE=0.2 ;DAC7311
*.PARAM DLE=0.05 ;DAC7311
**.PARAM DLE=0.03 ;DAC6311
*.PARAM DLE=0.015 ;DAC6311
**.PARAM DLE=0.01 ;DAC5311
*.PARAM DLE=0.0025 ;DAC5311
.FUNC SG(X) {IF(X >= VLTH, 1, -1)}
.FUNC L0(X,VDD,LV) {IF(X >= VLTH*VDD, 1, 0)}
.FUNC LH(X,VDD,LV) {IF(X >= (VLTH-SG(LV)*VH)*VDD, 1, 0)}
.PARAM K1= 16 ;DAC8411
*.PARAM K1= 8 ;DACX311
.PARAM K2= 128 ;DACXX11
*.PARAM K2= 32 ;DAC5311
.FUNC INL(X) {INLa1*sin(2*pi*X)+INLa2*sin(K1*pi*X)+INLa3*sin(K2*pi*X)} 
.PARAM M1= {0.0667*B2}
.PARAM M2= {(1-M1)*B2}
.FUNC DLEF(I0,I1,I2,I3) { IF (I1 < 0.5, IF (I0 < 0.5, DLE*(M2 - M1*(I2*4 + I3*8)), 
+                                                     -DLE*(M1*(1 + I2*4 + I3*8)) ), 
+                                        IF (I0 < 0.5, -DLE*(M2 - M1*(2 + I2*4 + I3*8)), 
+                                                       DLE*(M1*(3 + I2*4 + I3*8)) ) ) }  
RD0  D0 GND 50MEG
CD0  D0 GND 1.5P
RD1  D1 GND 50MEG
CD1  D1 GND 1.5P
RD2  D2 GND 50MEG
CD2  D2 GND 1.5P
RD3  D3 GND 50MEG
CD3  D3 GND 1.5P
RD4  D4 GND 50MEG
CD4  D4 GND 1.5P
RD5  D5 GND 50MEG
CD5  D5 GND 1.5P
RD6  D6 GND 50MEG
CD6  D6 GND 1.5P
RD7  D7 GND 50MEG
CD7  D7 GND 1.5P
RD8  D8 GND 50MEG
CD8  D8 GND 1.5P
RD9  D9 GND 50MEG
CD9  D9 GND 1.5P
RD10  D10 GND 50MEG
CD10  D10 GND 1.5P
RD11  D11 GND 50MEG
CD11  D11 GND 1.5P
RD12  D12 GND 50MEG
CD12  D12 GND 1.5P
RD13  D13 GND 50MEG
CD13  D13 GND 1.5P
RD14  D14 GND 50MEG
CD14  D14 GND 1.5P
RD15  D15 GND 50MEG
CD15  D15 GND 1.5P

GD0  0 LD0 VALUE = {L0(V(D0,GND), V(AVDD,GND), V(LD0))}
RDD0  LD0 0 1
CDD0  LD0 0 10N
GD1  0 LD1 VALUE = {L0(V(D1,GND), V(AVDD,GND), V(LD1))}
RDD1  LD1 0 1
CDD1  LD1 0 10N
GD2  0 LD2 VALUE = {L0(V(D2,GND), V(AVDD,GND), V(LD2))}
RDD2  LD2 0 1
CDD2  LD2 0 10N
GD3  0 LD3 VALUE = {L0(V(D3,GND), V(AVDD,GND), V(LD3))}
RDD3  LD3 0 1
CDD3  LD3 0 10N
GD4  0 LD4 VALUE = {L0(V(D4,GND), V(AVDD,GND), V(LD4))}
RDD4  LD4 0 1
CDD4  LD4 0 10N
GD5  0 LD5 VALUE = {L0(V(D5,GND), V(AVDD,GND), V(LD5))}
RDD5  LD5 0 1
CDD5  LD5 0 10N
GD6  0 LD6 VALUE = {L0(V(D6,GND), V(AVDD,GND), V(LD6))}
RDD6  LD6 0 1
CDD6  LD6 0 10N
GD7  0 LD7 VALUE = {L0(V(D7,GND), V(AVDD,GND), V(LD7))}
RDD7  LD7 0 1
CDD7  LD7 0 10N
GD8  0 LD8 VALUE = {L0(V(D8,GND), V(AVDD,GND), V(LD8))}
RDD8  LD8 0 1
CDD8  LD8 0 10N
GD9  0 LD9 VALUE = {L0(V(D9,GND), V(AVDD,GND), V(LD9))}
RDD9  LD9 0 1
CDD9  LD9 0 10N
GD10  0 LD10 VALUE = {L0(V(D10,GND), V(AVDD,GND), V(LD10))}
RDD10  LD10 0 1
CDD10  LD10 0 10N
GD11  0 LD11 VALUE = {L0(V(D11,GND), V(AVDD,GND), V(LD11))}
RDD11  LD11 0 1
CDD11  LD11 0 10N
GD12  0 LD12 VALUE = {L0(V(D12,GND), V(AVDD,GND), V(LD12))}
RDD12  LD12 0 1
CDD12  LD12 0 10N
GD13  0 LD13 VALUE = {L0(V(D13,GND), V(AVDD,GND), V(LD13))}
RDD13  LD13 0 1
CDD13  LD13 0 10N
GD14  0 LD14 VALUE = {L0(V(D14,GND), V(AVDD,GND), V(LD14))}
RDD14  LD14 0 1
CDD14  LD14 0 10N
GD15  0 LD15 VALUE = {L0(V(D15,GND), V(AVDD,GND), V(LD15))}
RDD15  LD15 0 1
CDD15  LD15 0 10N
G1 GND AOUTi VALUE = { (V(LD0)*1 + V(LD1)*2 + V(LD2)*4 + V(LD3)*8 + V(LD4)*16 + V(LD5)*32 + V(LD6)*64 + V(LD7)*128 + 
+ V(LD8)*256 + V(LD9)*512 + V(LD10)*1024 + V(LD11)*2048 + V(LD12)*4096 + V(LD13)*8192 + 
+ V(LD14)*16384 + V(LD15)*32768)/Res }
RG1 AOUTI GND 1
G2 GND AOUT VALUE = {V(AOUTi,GND) + INL(V(AOUTi,GND))+ DLEF(V(LD0),V(LD1),V(LD2),V(LD3))}
RG2 AOUT GND 1
.ENDS
*$
*****************************************************************************
*MODEL SUBCIRCUITs:
*****************************************************************************
.SUBCKT RSTRING C GND X Y Z 
.PARAM RSTR=1310720
.PARAM RMIN={RSTR*1E-11}
G1  X Z VALUE = {(1/( LIMIT(1-V(C,GND),0,1)*RSTR + RSTR))*V(X,Z)}
G2  Z Y VALUE = {1/( LIMIT(V(C,GND),0,1)*RSTR + RMIN)*V(Z,Y)}
*R1  X Z 1000G 
*R2  Z Y 1000G 
.ENDS
*$
.SUBCKT Opamp_0 INP INN OUT AVDD GND PORI POROi
+ PARAMS: Offs=0.05m Offs_ED=3u
* Offset error ±0.05 ±4 mV
* Offset error drift 3 µV/°C
VPSref      34 GND 5
VS2         0 36 600M
VS1         35 0 600M
XOUTA       INN Bias AVDD POROi GND Vt0p Vt0 VnR Plus OUT Vn Output_0
Rn2         VnR 0 1.206581545MEG 
XBiasOut    AVDD GND Bias Vt0p Vt0 VOCM PORI POROi Bias_0
Rn1         VnR 0 1.206581545MEG 
Gpsn        INP Plus POLY(4) Veps 0 Vn 0 VnR 0 Vos 0 0 0 6M 400M 500M 
R2          INP Plus 1 
R11ops      33 0 999 
L1ops       33 0 158.9957881488U
R1ops       Veps 33 1 
G1ops       0 Veps 34 AVDD  500N
XD10        35 Vn D_DNOISE_0
XD9         Vn 36 D_DNOISE_0
XU3         0 Vos VOST_0
+ PARAMS: Offs={Offs} Offs_ED={Offs_ED} 
.ENDS
*$
.SUBCKT Output_0 Neg Bias VDD2 POR GND2 Vt0p Vt0 VnR Plus OUT Vn
VOLo        GND2 VLo 173.5236254158M
VOHi        VHi GND2 173.5236254158M
GVnn        GND2 43 POLY(2) Vn 0 VnR 0 0 357U 10.71M 
RO2         44 OUT 12 
RO1         43 GND2 28 
XD5         VGP Vt0p2 D_LIM1_0
XD3         Vt02 VGN D_LIM1_0
GVCCS2      GND2 Vt02 VDD2 Vt0p 1.2
GVCCS1      Vt0p2 VDD2 VDD2 Vt0p 1.2
R5          Vt02 GND2 1 
R4          VDD2 Vt0p2 1 
GVnp        OUT 44 POLY(2) Vn 0 VnR 0 0 833U 25M 
R1          VV GND2 5.572372MEG TC=5.0092M,-15.1437U
Gdn1        Vt0 VGN VALUE = {(V(POR,0)*LIMIT(25.132741U*V(VV,GND2),-1.54U,1.54U))}
Lf2         47 48 100U
Rf2         47 OUT 5K 
Co21        Plus Neg 500F 
G23         VV GND2 VALUE = {(V(POR,0)*LIMIT(31.415927U*V(Plus,Neg),-3.5U,3.5U))}
RG23l       0 0 3.5U 
RG23        0 0 31.4159265359U 
R3          VDD2 49 1 
GVMP2       49 VDD2 VALUE = {(1.290+(150M*(V(VDD2,GND2)-2.0)))*V(Vt0,GND2)}
R2          50 GND2 1 
GVMN2       GND2 50 VALUE = {(2.70+375M*(V(VDD2,GND2)-2.0))*V(Vt0,GND2)}
C1          VV GND2 1F 
RGdn1ll     0 0 2.8U 
RGdn1lh     0 0 2.8U 
RGdn1       0 0 25.1327412287U 
Gdn2        Vt0p VGP VALUE = {(V(POR,0)*LIMIT(25.132741U*V(VV,GND2),-1.54U,1.54U))}
Rf1         51 OUT 541.799859132 
Cf4         VGP 51 2P 
Cf5         51 VGN 2P 
XT3         44 VGP VDD2 VDD2 Q_PMOS_OUT_L1_0
+ PARAMS: M=8 W=10U L=1U 
XT1         OUT VGN 43 GND2 Q_NMOS_OUT_L1_0
+ PARAMS: M=8 W=10U L=1U 
XD6         49 VGP D_LIM1_0
XD4         VGN 50 D_LIM1_0
XD2         VV VHi D_LIM1_0
XD1         VLo VV D_LIM1_0
C33         VV 48 5P 
Ro23        GND2 Plus 1T 
Ro22        Neg GND2 1T 
Ro21        Neg Plus 1G 
Rdn2        VGP Vt0p 3.1728726441MEG 
Rdn1        VGN Vt0 3.1728726441MEG 
Co23        GND2 Plus 500F 
Co22        Neg GND2 500F 
.ENDS
*$
.SUBCKT Bias_0 VDD2 GND2 Bias Vt0p Vt0 VOCM PORI POROi
VS2         54 53 900M
VCIb1       52 55 ; Current Arrow
GVMP1       Vt0p VDD2 VALUE = {V(POROi,GND2)*V(VDD2,52)}
GVMN1       GND2 Vt0 VALUE = {V(POROi,GND2)*V(53,GND2)}
C1          POROi GND2 45N 
R5          POROi GND2 100K 
GPORO       GND2 POROi VALUE = {10.0E+0*(LIMIT(I(VCIB1),4.5U,5.5U)-4.5U)}
XT4         VT1 Vt0 GND2 GND2 Q_NMOS_OUT_L1_0
+ PARAMS: M=5 W=10.8U L=1U 
R6          54 53 1MEG 
R4          Vt0 GND2 1 
R1          VDD2 Vt0p 1 
XD1         54 55 D_LIM1_0
XT3         53 53 GND2 GND2 Q_NMOS_OUT_L1_0
+ PARAMS: M=2 W=10U L=1U 
XT2         52 52 VDD2 VDD2 Q_PMOS_OUT_L1_0
+ PARAMS: M=2 W=10U L=1U 
GIb2        GND2 Bias VALUE = {IF(V(PORI,GND2)<1.4,(10M*V(VDD2,GND2)+942M),0)}
Rb3         Bias GND2 1 TC=1.685482M
R3          53 GND2 10MEG 
R2          VDD2 52 10MEG 
Rsp1        VDD2 VT1 709.2585520214 
GIb1        55 53 Bias GND2  10U
Rpsrr1      55 53 10MEG 
.ENDS
*$
.SUBCKT GAINSET_0  1 2 3 PARAMS: GERR=0.05 GERR_TC=0.5
* GAIN ERROR 0.05 ±0.15 % OF FSR
* GAIN TEMPERATURE COEFFICIENT AVDD=+5V: ±0.5,  AVDD=+2.0V: ±1.5 PPM OF  FSR/°C
.PARAM RG = 150K
.PARAM G_ERR = {(GERR)*0.01}
.PARAM G_TC = {GERR_TC*1E-6}
.PARAM RG_TC = {1*G_TC}
.PARAM RG1 = {(1-G_ERR)*RG}
.PARAM RG2 = {(1+G_ERR)*RG}
R1 1 3 RMOD1 {RG1}
R2 3 2 RMOD2 {RG2}
.MODEL RMOD1 RES (TC1={-RG_TC} TC2=0 TCE=0)
.MODEL RMOD2 RES (TC1={RG_TC} TC2=0 TCE=0)
.ENDS
*$
.SUBCKT D_D2_0       1    2
D1 1 2  D2
.MODEL D2 D( IS=1P N=1.0 XTI=0 RS=10 )
.ENDS
*$
.SUBCKT D_DNOISE_0       1    2
D1 1 2  DD
.MODEL DD D( IS=0.9E-18 N=1.0 AF=1 KF=20.0506E-15)
.ENDS D_DNOISE_0 
*$
.SUBCKT VOST_0    1 2 PARAMS: OFFS=0.05M OFFS_ED=3U 
* OFFSET ERROR ±0.05 ±4 MV
* OFFSET ERROR DRIFT 3 µV/°C
.PARAM I0 = 1M
.PARAM DVOS_DT = { OFFS_ED }
.PARAM VOFFS = {OFFS + 2*DVOS_DT}
.PARAM R0 = {VOFFS/I0}
.PARAM TC1= {DVOS_DT/R0/I0}
R2 1 2 RMOD2 {R0}
I2 1 2 {I0}
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS
*$
.SUBCKT DZZ_15_80V_0  C1 C2 
D1 A1A2 C1 DZ_15V
D2 A1A2 C2 DZ_80V
.MODEL D2 D( IS=1P N=1.0 XTI=0 RS=10 )
.ENDS
*$
.SUBCKT SW1_0  SP SM CP CM
R_SW1         Cp Cm 1G
S_SW1  Sp Sm Cp Cm SW1
.MODEL  SW1 VSWITCH RON=10 ROFF=1E12 VON=0.6V VOFF=0.4V  
.ENDS 
*$
.SUBCKT SW2_0  SP SM CP CM
R_SW1         Cp Cm 1G
S_SW1  Sp Sm Cp Cm SW2
.MODEL  SW2 VSWITCH RON=100m ROFF=1E12 VON=0.6V VOFF=0.4V 
.ENDS 
*$
.SUBCKT D_LIM1_0   1 2
D1 1 2  D_LIM1
.MODEL D_LIM1 D( IS=10F N=1.0 RS=100 XTI=0 AF=0 KF=0 EG=0.48)
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS
*$
.SUBCKT D_DB7_0      1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=1.25 RS=1 XTI=0  )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS
*$
.SUBCKT D_DB4_0       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=1.0 RS=20K XTI=0 )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS
*$
.SUBCKT D_DB3_0       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=2.0 RS=1 XTI=0 EG=2.22)
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS 
*$
.SUBCKT D_DB2_0       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=2.0 RS=1K XTI=0 EG=2.22)
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS 
*$
.SUBCKT D_DB1_0       1    2
D1 1 2  DD
.MODEL DD D( IS=1P N=0.5 RS=20K XTI=0 EG=0.555)
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS 
*$
.SUBCKT D_LIM2_0   1 2
D1 1 2  D_LIM2
.MODEL D_LIM2 D( IS=10F N=0.5 RS=1 XTI=0 AF=0 KF=0 EG=0.555 )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS
*$
.SUBCKT D_D10      1    2
D1 1 2  DD
Cd 1 2 10f
.MODEL DD D( IS=1F N=2.0 RS=1 XTI=0 EG=2.22 )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS 
*$
.SUBCKT D_D4_0       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=2.5 RS=1 )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS D_D4_0 
*$
.SUBCKT D_ZB1_0        1    2
D1 1 2  D_4_9V
CD 1 2 1P
.MODEL D_4_9V D( IS=1F N=3.0 BV=4.9 IBV=1.0U RS=0 )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS 
*$
.SUBCKT D_Zr_2V      1    2
D1 1 2  D_2V
*C1 1 2 1P
.MODEL D_2V D( IS=1P N=0.2 BV=2.0 IBV=1.0m RS=1 XTI=0 EG=0.222 )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.MODEL D_2V D( IS=10F N=1.0 BV=2.0 IBV=10.0U RS=10 XTI=0 EG=1.11 )
.ENDS 
*$
.SUBCKT D_DNoise      1    2
D1 1 2  DD
.MODEL DD D( IS=0.9e-18 N=1.0 )
.MODEL D1 D( IS=1P N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.ENDS D_D
*$
.SUBCKT Q_PMOS_OUT_L1_0   D G S B PARAMS:  M = 1 W = 100U L = 10U 
M1 D G S B Q_PMOS_OUT_L1 W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.MODEL Q_PMOS_OUT_L1 PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={-VTOHP} LAMBDA={LAMBDA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH={RSH} PB={PBP} LD= {LDP} RDS={RDS} PHI={PHI}  AF=0 KF=0
.ENDS
*$
.SUBCKT Q_PMOS_OUT_0   D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_OUT W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.MODEL Q_PMOS_OUT PMOS LEVEL=3 L=10U W=100U KP={KPP} VTO={-VTOHP} THETA={THETA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH={RSH} PB={PBP} LD= {LDP} RDS={RDS} TOX={TOX} XJ={XJP}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA} PHI={PHI}  AF=0 KF=0
.ENDS
*$
.SUBCKT Q_NMOS_OUT_0   D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_OUT  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.MODEL Q_NMOS_OUT NMOS LEVEL=3 L=10U W=100U KP={KPN} VTO={VTOHN} THETA={THETA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH={RSH} PB={PBN} LD= {LDN} RDS={RDS} TOX={TOX} XJ={XJN}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA} PHI={PHI}  AF=0 KF=0
.ENDS
*$
.SUBCKT Q_NMOS_OUT_L1_0   D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_OUT_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.MODEL Q_NMOS_OUT_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH={RSH} PB={PBN} LD= {LDN} RDS={RDS} PHI={PHI}  AF=0 KF=0
.ENDS

**********************************************************************************************************
*PARAMETERS: 0.4UM CMOS
.PARAM LS = 1.0U
.PARAM VTOHP = 0.70
.PARAM VTOHN = 0.70
.PARAM LAMBDA = 100M
.PARAM GAMMA = 0.0
.PARAM KAPPA = 1.0
.PARAM THETA = 0.1
.PARAM ETA = 0.05
.PARAM PHI = 0.6
.PARAM EPSSIO2 = {3.9*8.854214871E-12}
.PARAM TOX = 80E-10
.PARAM COX = {EPSSIO2/TOX}
.PARAM KPN = {UON*COX * 1E-4}
.PARAM KPP = {UOP*COX * 1E-4}
.PARAM LDN = 0.09U
.PARAM LDP = 0.09U
.PARAM RSW = 1810
.PARAM RSN = 1.41
.PARAM RSH = 4.0
.PARAM RDS = 1.8MEG
.PARAM VBMUL = 1E6
.PARAM RPAR = 1T
.PARAM CBDJ = 1.0 
.PARAM CBDS = 1.0
.PARAM CGBF = 1.0
.PARAM PBP = 0.7
.PARAM PBN = 0.7
.PARAM UON = 900
.PARAM UOP = 900
.PARAM CJN = {200U}
.PARAM CJP = {400U} 
.PARAM CJSWN = {1.2N}
.PARAM CJSWP = {2.4N}
.PARAM XJN = 0.15U
.PARAM CGSON = {0.6*XJN*COX} 
.PARAM CGDON = {CGSON}
.PARAM CGBON = {CGBF*CGDON}
.PARAM XJP = 0.18U
.PARAM CGSOP = {0.6*XJP*COX} 
.PARAM CGDOP = {CGSOP}
.PARAM CGBOP = {CGBF*CGDOP}
*$
